* source ESSAISSIMUPSPICE
X_U4         N14788 0 N14808 N147723 N16057 0 N16175 N16389 AD623 
R_R10         N14702 N16064  1000k TC=0,0 
R_R11         N14808 N147723  1k TC=0,0 
X_R14         0 N14788 N14702 POT PARAMS: SET=0.5 VALUE=1K
V_V2         N16057 0 5Vdc
V_V3         N16064 0 12
R_R19         0 N16175  1k TC=0,0 
V_V4         N16389 0 1.65
